US07279499B2
A. Preparation of 2,6-dibromo-4-methoxy-phenol
To 4-methoxyphenol (10.00 g, 80.6 mmol) in CH2Cl2 (70 mL), add a stirred solution of benzyltrimethylammonium tribromide (69.10 g, 177.2 mmol) in CH2Cl2 (500 mL) and MeOH (200 mL). Stir the reaction for 12 hours and remove the solvent in vacuo. Add methyl tert-butyl ether (MTBE) (600 mL) and collect the precipitate (benzyltrimethylammonium bromide) by filtration and wash with MTBE (200 mL). Filter the organics through Celite® and concentrate to provide the subtitled product (23.0 g, >95%) as an orange solid that may be used without purification. 1H NMR (DMSO-d6) δ 3.69 (s, 3H), 7.14 (s, 2H), 9.32 (s, 1H).

reactant | 4-methoxyphenol | 80.6 mmol, 10.00 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | benzyltrimethylammonium tribromide | 177.2 mmol, 69.10 g | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 200 mL | CO | CH4O
product | 2,6-dibromo-4-methoxy-phenol | 23.0 g, >95% | BrC1=C(C(=CC(=C1)OC)Br)O | C7H6Br2O2
